US05716971
To a solution of 5-bromo-2-methoxymethoxybenzyl alcohol (27.2 g) and triethylamine (23 ml) in dichloromethane (550 ml) was added, at 0° C., methanesulfonyl chloride (13.9 g). The mixture was stirred for 15 hours, while warming up to room temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract solution was washed with an aqueous saline solution, which was then dried (anhydrous magnesium sulfate), followed by concentration to give an oily product. The oily product was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 5-bromo-2-methoxymethoxybenzyl chloride (21.6 g) as an oily product.

reactant | 5-bromo-2-methoxymethoxybenzyl alcohol | 27.2 g | BrC=1C=CC(=C(CO)C1)OCOC | C9H11BrO3
reactant | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 550 ml | ClCCl | CH2Cl2
product | 5-bromo-2-methoxymethoxybenzyl chloride | 21.6 g | BrC=1C=CC(=C(CCl)C1)OCOC | C9H10BrClO2
